US08865726B2
To a solution of (S)—N2-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-3-methylbutane-1,2-diamine (0.75 g, 2.52 mmol) in DMF was added N-ethyl-N-isopropylpropan-2-amine (1.38 ml, 7.55 mmol) and di(1H-imidazol-1-yl)methanone (0.816 g, 5.03 mmol) and the reaction stirred overnight at ambient temperature. The reaction was poured into water and extracted into EtOAc. The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated in vacuo. The crude material was purified by chromatography, eluting with 2% MeOH/dichloromethane, to yield (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-5-isopropylimidazolidin-2-one (0.48 g, 58%).

reactant | (S)—N2-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-3-methylbutane-1,2-diamine | 2.52 mmol, 0.75 g | BrC=1C=NN2C1N=C(C=C2)N[C@H](CN)C(C)C | C11H16BrN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 7.55 mmol, 1.38 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | di(1H-imidazol-1-yl)methanone | 5.03 mmol, 0.816 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-5-isopropylimidazolidin-2-one | 0.48 g, 58% | BrC=1C=NN2C1N=C(C=C2)N2C(NC[C@@H]2C(C)C)=O | C12H14BrN5O
